US09145380B2
5-Chloro-2-(2-(4-chloro-2-methoxyphenyl)ethylsulfonamido)benzenesulfonamide
Sodium acetate (64 mg, 0.78 mmol) and para-toluenesulfonhydrazide (145 mg, 0.78 mmol) was added to a solution of (E)-5-chloro-2-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)benzenesulfonamide (85 mg, 0.19 mmol) in tetrahydrofuran (3 mL). The reaction mixture was heated at 180° C. for 15 min in a microwave reactor. The solids were removed by filtration, washed with tetrahydrofuran and the combined filtrates were evaporated. Purification by preparative HPLC gave 0.037 g (43% yield) of the title compound.

reactant | Sodium acetate | 0.78 mmol, 64 mg | C(C)(=O)[O-].[Na+]
reactant | para-toluenesulfonhydrazide | 0.78 mmol, 145 mg | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | (E)-5-chloro-2-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)benzenesulfonamide | 0.19 mmol, 85 mg | ClC=1C=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=C(C=C(C=C1)Cl)OC | C15H14Cl2N2O5S2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-Chloro-2-(2-(4-chloro-2-methoxyphenyl)ethylsulfonamido)benzenesulfonamide | 0.037 g, 43% yield | ClC=1C=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)CCC1=C(C=C(C=C1)Cl)OC | C15H16Cl2N2O5S2
